US08106236B2
Preparation of (5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
Trifluoromethanesulphonic anhydride (570 mg, 2.0 mmol) was added drop wise to a solution of (5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (546 mg, 1.69 mmol) and pyridine (0.41 mL, 5.0 mmol) in DCM (10 mL) at 0° C. The temperature was maintained at 0° C. for 15 mins before warming to room temperature and the mixture stirred for 18 hrs. The reaction was diluted with DCM, washed with H2O, Na2CO3, dil. HCl, brine, dried (MgSO4) and evaporated under reduced pressure to give a yellow oil. The residue was purified by flash column chromatography (EtOAc:petroleum ether), yield 695 mg (96%). 1H NMR (CDCl3) δ 7.72 (d, 2H), 7.66 (d, 2H), 7.54 (t, 1H), 7.39 (t, 1H), 7.28 (t, 1H), 4.19 (q, 2H), 3.73 (s, 2H), 1.28 (t, 3H).

reactant | Trifluoromethanesulphonic anhydride | 2.0 mmol, 570 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | (5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 1.69 mmol, 546 mg | C(C)OC(CC=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C17H15F3O3
reactant | pyridine | 5.0 mmol, 0.41 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C18H14F6O5S
